US06992087B2
Preparation of trans-(+/−)-4-[(3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol
Following the procedure for the preparation of benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-hydroxypyrrolidine-1-carboxylate but substituting trans-(+/−)-4-aminotetrahydrofuran-3-ol and making non-critical variations provided the title compound as an orange oil. IR (diffuse reflectance) 3356, 3255, 2972, 2938, 1587, 1511, 1464, 1453, 1396, 1337, 1185, 1099, 1064, 965, 888 cm−1; OAMS supporting ions at: ESI+ 238.1; MS (EI) m/z 237 (M+); HRMS (FAB) calcd for C12H19N3O2+H1 238.1555, found 238.1551.

reactant | benzyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-hydroxypyrrolidine-1-carboxylate | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1O)C(=O)OCC1=CC=CC=C1 | C20H26N4O3
reactant | trans-(+/−)-4-aminotetrahydrofuran-3-ol | N[C@H]1[C@@H](COC1)O | C4H9NO2
product | trans-(+/−)-4-[(3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@@H](COC1)O | C12H19N3O2
